US09388176B2
3-[2-(methylthio)-5,7-dihydro-6H-pyrrolo[3,4-d]pyrimidin-6-yl]-N-[3-(trifluoromethyl)phenyl]benzamide
In a manner similar to that describe in Example 126, 2-(methylthio)-6,7-dihydro-5H-pyrrolo[3,4-d]pyrimidine and 3-Bromo-N-[3-(trifluoromethyl)phenyl]benzamide were converted to the title compound.

reactant | 2-(methylthio)-6,7-dihydro-5H-pyrrolo[3,4-d]pyrimidine | CSC=1N=CC2=C(N1)CNC2 | C7H9N3S
reactant | 3-Bromo-N-[3-(trifluoromethyl)phenyl]benzamide | BrC=1C=C(C(=O)NC2=CC(=CC=C2)C(F)(F)F)C=CC1 | C14H9BrF3NO
product | 3-[2-(methylthio)-5,7-dihydro-6H-pyrrolo[3,4-d]pyrimidin-6-yl]-N-[3-(trifluoromethyl)phenyl]benzamide | CSC=1N=CC2=C(N1)CN(C2)C=2C=C(C(=O)NC1=CC(=CC=C1)C(F)(F)F)C=CC2 | C21H17F3N4OS
